US04397677
Preparation of 2-(ethylamino)methyl-2-methyl-1,3-dioxolane
Ethylamine (115 grams; 1.77 mole) and 2-methyl-2-bromomethyl-1,3-dioxolane (32 grams; 0.177 mole) were placed in a stainless steel bomb and placed on a steam bath for 5 hours. The temperature of the mixture was raised to 120° C. for 15 hours. The mixture was cooled and ether (200 ml) added to it. Sodium hydroxide (25 grams) was added and the ether layer separated and dried over magnesium sulfate. The ether was evaporated leaving the desired product (10.3 grams) as identified by nuclear magnetic resonance.

reactant | Ethylamine | 1.77 mole, 115 grams | C(C)N | C2H7N
reactant | 2-methyl-2-bromomethyl-1,3-dioxolane | 0.177 mole, 32 grams | CC1(OCCO1)CBr | C5H9BrO2
reactant | Sodium hydroxide | 25 grams | [OH-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(ethylamino)methyl-2-methyl-1,3-dioxolane | 10.3 grams | C(C)NCC1(OCCO1)C | C7H15NO2
